US04515948
A suspension of 58.4 g. of dimethylsulfone and 21.1 g. of sodium hydride (50% dispersion in oil) in 200 ml. of absolute dimethylsulfoxide was stirred at 50° C. under an atmosphere of nitrogen and the exclusion of moisture for a period of 4 hours. Then, 42.6 g. of 4-(ethylamino)-3,5-dimethoxy-benzoic acid methyl ester were added. The resulting mixture was stirred at 80° C. for 10 minutes and subsequently dissolved in 1 liter of water. The solution was neutralized with glacial acetic acid. The precipitate was removed by filtration with suction, washed with water, dried and recrystallized from ethyl acetate, whereby there was obtained 4'-(ethylamino)-3',5'-dimethoxy-2-(methylsulfonyl)-acetophenone having a melting point of 129°-130° C.

reactant | dimethylsulfone | CS(=O)(=O)C | C2H6O2S
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | 4-(ethylamino)-3,5-dimethoxy-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)OC)NCC)OC)=O | C12H17NO4
solvent | water | 1 liter | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4'-(ethylamino)-3',5'-dimethoxy-2-(methylsulfonyl)-acetophenone | C(C)NC1=C(C=C(C=C1OC)C(CS(=O)(=O)C)=O)OC | C13H19NO5S
